US03980650
To a solution of 21.5 g. (0.25 mol) of piperazine in a mixture of 960 ml. of acidified water (pH = 4.5) and 1200 ml. of acetone, 32.5 g. (0.25 mol) of furoyl chloride are added dropwise while the pH is maintained at 4.5 by dropwise addition of a sodium hydroxide solution. The mixture is made alkaline, and extracted several times with chloroform. The chloroform is distilled off and the concentrated extract is distilled in vacuo. 18.3 g. of the N-(2-furoyl)piperazine thus obtained in 50 ml. of diethyl ether are added to an equivalent amount of cyanogen bromide in a mixture of 60 ml. of water and 60 ml. of diethyl ether. The mixture is stirred overnight at room temperature and then subjected to continuous extraction with benzene. The extract is dried over sodium sulphate and the solvent is distilled off. According to the NMR and IR spectra the residue consists of 1-cyano-4-(2-furoyl)piperazine, m.p. 63°-65°C.

reactant | piperazine | 0.25 mol | N1CCNCC1 | C4H10N2
reactant | water | pH = 4.5 | O | H2O
reactant | furoyl chloride | 0.25 mol | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | N-(2-furoyl)piperazine | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
